**AND GATE

.INCLUDE NAND.sub
.INCLUDE INVERTER.sub

.subckt AND nodeA nodeB Vdd Gnd nodeC

xNAND nodeA nodeB Vdd Gnd nodeZ NAND
xINV nodeZ Vdd Gnd nodeC INVERTER

.ends AND

