**NOT GATE 

.subckt INVERTER nodeIN Vdd Gnd nodeOUT

Mp1 nodeOUT nodeIN Vdd Vdd CMOSP W={2*Width_p} L={Length_p} 
Mn1 nodeOUT nodeIN Gnd Gnd CMOSN W={2*Width_n} L={Length_n} 


.ends INVERTER


