**2 Input NAND Gate 

.subckt NAND nodeA nodeB Vdd Gnd nodeC

Mp1   nodeC   nodeA    Vdd   Vdd   CMOSP W={2*Width_p} L={Length_p}
Mp2   nodeC   nodeB    Vdd   Vdd   CMOSP W={2*Width_p} L={Length_p}
Mn1   node1   nodeA    Gnd   Gnd   CMOSN W={2*Width_n} L={Length_n}
Mn2   nodeC   nodeB   node1  Gnd   CMOSN W={2*Width_n} L={Length_n}

.ends NAND

